US08871753B2
Step A: tert-Butyl (3-{[(3-nitrophenyl)sulfonyl]amino}phenyl)carbamate
Into a 1-neck round-bottom flask were added tert-butyl (3-aminophenyl)carbamate (2.0 g, 9.6 mmol) and tetrahydrofuran (30 mL) and triethylamine (2.0 mL, 14 mmol). The mixture was stirred at 0° C. and m-nitrobenzenesulfonyl chloride (2.1 g, 9.6 mmol) was slowly added. The reaction was warmed to rt and stirred for 1 h. The solvent was removed under vacuum and EtOAc and water were added. The aqueous phase was extracted again with EtOAc. The organics were combined, dried over Na2SO4 and the solvents were removed under vacuum. The crude was purified by combi-flash column chromatography to give the desired product (1.5 g, 39%). LCMS for C17H19N3O6S (M-tBu+H)+: m/z=338.0. 1H NMR (400 MHz, DMSO-d6): δ 10.47 (s, 1H), 9.35 (s, 1H), 8.51 (t, J=2.0 Hz, 1H), 8.43 (ddd, J=8.2, 2.2, 1.0 Hz, 1H), 8.12 (ddd, J=7.8, 1.8, 1.0 Hz, 1H), 7.84 (t, J=8.0 Hz, 1H), 7.35 (br, 1H), 7.07 (m, 1H), 7.06 (s, 1H), 6.68 (dt, J=7.0, 2.0 Hz, 1H), 1.42 (s, 9H).

reactant | tert-butyl (3-aminophenyl)carbamate | 9.6 mmol, 2.0 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | triethylamine | 14 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | m-nitrobenzenesulfonyl chloride | 9.6 mmol, 2.1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | tert-Butyl (3-{[(3-nitrophenyl)sulfonyl]amino}phenyl)carbamate | 1.5 g, 39% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C17H19N3O6S
